2176-12-23 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - [** **] to 160
s on arrival to ICU, Dilt 10mg IV, IV Metoprolol 20mg
   and 50mg PO metoprolol (as well as lorazepam 5mg and 500cc NS bolus),
   Called EP, who recommended letting pt be [**Last Name (LF) **], [**First Name3 (LF) **] long as
   asymptomatic, as [**First Name3 (LF) **] better than brady. Would recommend TEE, followed
   by cardioversion if pt failed to slow overnight on Dilt drip.
   - Between 4p-9p, HR decreased from 130s to 80s on Dilt drip (15mg/hr).
 Spiked to 101.4
F this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Diltiazem - [**2176-12-22**] 02:20 PM
   Hydromorphone (Dilaudid) - [**2176-12-23**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-23**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 91 (40 - 167) bpm
   BP: 136/67(84) {105/44(62) - 159/105(110)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,754 mL
                                                                    366 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,634 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    500 mL
   Urine:
                                                                  1,420 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    334 mL
                                                                   -134 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: General: Awake and alert.  Oriented x3, having
   ankle pain,  tremulous, looks very uncomfortable.
   HEENT: Sclera anicteric, Pupils 1.5 mm with minimally reactive to light
   b/l, MMM, oropharynx clear,
   Neck: supple no elevation of JVP noted.
   Lungs: CTA b/l
   Heart: tachycardic but regular, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, non-tender, non-distended, no rebound tenderness or
   guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses in LLE, RLE in wrapped
   Neuro: Awake, oriented x 3, Pupils 1.5 mm with minimally reactive to
   light b/l.
   Labs / Radiology
   83 K/uL
   12.0 g/dL
   121 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   9 mg/dL
   95 mEq/L
   134 mEq/L
   33.9 %
   6.4 K/uL
        [image002.jpg]
                            [**2176-12-23**]  12:27 AM
   WBC
   6.4
   Hct
   33.9
   Plt
   83
   Cr
   0.8
   Glucose
   121
   Other labs: Ca++:9.2 mg/dL, Mg++:1.3 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Assessment and Plan:
   60 y/o M s/p fall down and EtOH intox found to have comminuted
   fractures of the right tibia and the fibula.
   .
   # Afib/flutter with RVR: Patient with first ECG that looked like 2:1
   flutter and repeat after slowing down in ED that looked like A-fib.
   Likely RVR in setting of pain and EtOH intox as well as questionable
   intake of medications.   As he is currently in sinus and responsive to
   diltiazem will stick with CCB for now.  We will attempt to convert from
   drip to boluses after surgery.  Will first have to wean drip.
   -Currently well rate controlled on dilt drip. Will attempt to convert
   to boluses and then PO dilt.  [**Month (only) 8**] become moot point if patient
   tachycardia and afib resolve with pain control/surgery/clearance of
   withdrawl period.
   -d/c home metoprolol for now
   - IVF PRN.
   -Holding anticoagulation in periop setting.  Re-start aspirin daily.
   -Continue to monitor for symptoms of withdraw/intox.
   -Pain control.
   -Per EP, would go for TEE/Cardioversion if rate control cannot be
   achieved with dilt drip though unlikely.
   .
   # Ankle fracture: OR today.
   - appreciate ortho recs
   - pain management with IV dilaudid.
   - NPO for now
   .
   # Preop risk assessment: Patient needs the procedure for pain control
   per Ortho team. Moderate risk procedure. Ok to go from our standpoint.
   - continue rate control with IV dilt for now
   - please see below for further details of risk assessment
   .
   # Per patient the last drink was on [**2176-12-21**] in the afternoon.  No
   recorded EtOH level at this time.  Patient clearly withdrawing at the
   moment.  His elevated HR and pain are confusing the picture, however
   withdrawl is clearly playing a large roll.  He is not hallucinating or
   hypertensive.  Will continue with symptom based benzodiazepine
   administration.
   - Continue CIWA at 10mg qH as was not well controlled on 10mg q2h.
   - F/u serum and urine tox for any evidence of other ingestions.  Also
   EtOH level from am may be useful in assess current toxicity v.
   withdraw.
   - thiamine/folate/MVI
   .
   # N/V: Nonbloody and nonbilious. ? secondary to pain. Normal abd exam
   is reassuring but will need to rule out alcoholic hepatitis or
   pancreatitis.
   - check LFTs and lipase
   - NPO for now
   - odensetron IV prn
   .
   # Anemia: Macrocytic in an alcoholic patient. Probably secondary to
   nutritional deficiency.
   - guaic stools
   - iron panel/B12/folate levels
   .
   # Throbocytopenia: Thought to be due to alcoholism.
   - continue to trend
   - transfuse for Plt < 20 or active bleeding
   - avoid heparin products for now
   .
   Per the Revised [**Doctor Last Name 3480**] cardiac risk index (RCRI), the 6 independent
   predictors of perioperative cardiac complications are:
   1) High-risk surgery (includes any intraperitoneal, intrathoracic,
   suprainguinal, or peripheral arterial vascular procedures)
   2) History of ischemic heart disease (h/o MI or positive stress test,
   current CP thought due to cardiac angina, use of nitrate therapy, or
   ppathological Q waves on EKG, but NOT including revascularization)
   3) History of Heart Failure
   4) Stroke
   5) preoperative treatment with insulin (eg IDDM)
   6) Creatinine >2.0 mg/dL
   .
   The perioperative rate of cardiac death, nonfatal myocardial
   infarction, and nonfatal cardiac arrest is approximately:
   .
   No risk factors - 0.4 percent (95% CI 0.1-0.8 percent)
   One risk factor - 1.0 percent (95% CI 0.5-1.4 percent)
   Two risk factors - 2.4 percent (95% CI 1.3-3.5 percent)
   Three or more risk factors - 5.4 percent (95% CI 2.8-7.9 percent)
   ([**Location (un) **], TH, [**Doctor Last Name 10710**], ER, [**Last Name (un) 10711**], CM, et [**Doctor Last Name **], Circulation [**2165**];
   100:1043)
   .
   By adding beta blocker therapy, this risk can be reduced to:
   No risk factors - <1% (versus 0.4 to 1.0%)
   One to two risk factors - 0.8 to 1.6% (versus 2.2 to 6.6%)
   Three or more risk factors - >3% (versus >9 %)
   (Auerbach, A, [**Doctor Last Name 3480**], L. Circulation [**2172**]; 113:1361)
   .
   This patient has 0 risk factors, and hence has a 0.4% risk of
   perioperative cardiac complications.
   .
   He will need to be continued on betablockade periprocedure especially
   in the setting of of Atrial fibrillation/ atrial flutter with RVR.
   Needs RVR undercontrol prior to patient going to OR.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-12-22**] 04:42 PM
   18 Gauge - [**2176-12-22**] 04:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2176-12-24 05:54:00 Physician Resident Progress Note
Chief Complaint: 60 yom with h/o ETOH abuse admitted with right ankle
   fracture complicated by ETOH withdrawal and AF with RVR.
   24 Hour Events:
   - OR with Orthopaedics: Ex-Fix R Pilon, Recieved Ancef x2 doses
   peri-operatively.
   - DVT Prophylaxis sp fracture, Lovenox 40mg sq qd x4wks
   - Some bleeding around surgical site post operatively, Orthopaedics
   states that this is to be expected.
   - Atrial Fibrillation: Transitioning to Diltiazem PO 60 mg QID, sinus
   in 80-100 most of the day.
   - 14 beat run of VT at 1600, asymptomatic, lytes rechecked normal
   - Post operatively spiked to 101.1 (@ 17:00), blood cultures sent
   earlier that day, so not repeated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2176-12-24**] 04:10 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2176-12-23**] 08:41 PM
   Hydromorphone (Dilaudid) - [**2176-12-24**] 03:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-24**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.4
C (97.5
   HR: 88 (83 - 109) bpm
   BP: 120/60(73) {100/48(60) - 181/97(101)} mmHg
   RR: 15 (12 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,011 mL
                                                                    355 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,771 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                  1,775 mL
                                                                    350 mL
   Urine:
                                                                  1,775 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    236 mL
                                                                      5 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   98 K/uL
   10.8 g/dL
   226 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.7 mEq/L
   8 mg/dL
   102 mEq/L
   136 mEq/L
   31.9 %
   6.1 K/uL
        [image002.jpg]
                            [**2176-12-23**]  12:27 AM
                            [**2176-12-23**]  04:13 PM
                            [**2176-12-24**]  02:26 AM
   WBC
   6.4
   6.1
   Hct
   33.9
   31.9
   Plt
   83
   98
   Cr
   0.8
   0.8
   0.8
   Glucose
   121
   144
   226
   Other labs: Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Microbiology:
   - [**12-23**]: blood culture x 2 pending
   Imaging
   - [**12-23**]: post op ankle films - unread
   Assessment and Plan
   Assessment and Plan:  60 yom with h/o ETOH abuse admitted with right
   ankle fracture complicated by ETOH withdrawal and AF with RVR now POD 1
   s/p ORIF of right ankle.
   # AF with RVR: patient now successfully transitioned from diltiazem gtt
   to PO and has remained in NSR most of night.  14 beat run of isolated
   asymptomatic VT in setting of normal electrolytes likely do to
   combination of ETOH withdrawal and pain with irritable myocardium.
   - rate control: PO Diltiazem and consider transitioning to 60-80 mg PO
   QID (max 360 mg daily), consider transitioning to B-
     blockade for perioperative mortality benefit
   - ETOH withdrawal: continue CIWA as discussed below
   - pain control: as discussed below.
   .
   # ETOH withdrawal:  last drink on [**12-21**] now nearing 72 hours out
   anticipating withdrawal symptoms to subside throughout day, patient
   with decreasing CIWA requirements 15 mg over 18 hours
   - continue CIWA scale Diazepam 5-10 mg PO q 2 hour PRN.
   .
   # Ankle fracture: POD 1 s/p ORIF right ankle
   - pain control: Dilaudid 1 mg IV q 4 hours PRN for pain control, will
   add PO pain medicines as CIWA requirement abate for
     improved long term control (has been receiving 0.5 mg q 2 hours)
   - anticoagulation: lovenox 40 mg SQ daily
   .
   # Anemia: macrocytic anemia in setting of ETOH abuse likely
   representing nutritional deficiency.  B12 level on low end of normal as
   suspected culprit.  Remaining Fe studies WNL.
   - consider B12 supplementation
   - continue to guiac stools in setting of anticoagulation and GIB [**1-29**]
   PUD in PMH
   .
   # Throbocytopenia: likely resulting from alcoholism, remain stable
   - trend with daily CBC
   .
   ICU Care
   Nutrition: regular, cardiac
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-12-22**] 04:42 PM
   18 Gauge - [**2176-12-22**] 04:42 PM
   Prophylaxis:
   DVT: lovenox 40 mg SQ daily
   Stress ulcer:  transition to PO PPI
   VAP:
   Comments:
   Communication:  patient
   Code status:  full
   Disposition:  to the floor